US07429609B2
N-{6-Fluoro-3-[(E)-2-(3-fluorophenyl)-vinyl]-1H-indazol-5-yl}-acetamide
525 mg of 6-fluoro-3-[(E)-2-(3-fluorophenyl)-vinyl]-1-trityl-1H-indazol-5-ylamine and 80 μl of glacial acetic acid were dehydraing-condensed in accordance with Example 127, followed by deprotection in the similar method as described in Example 16, to afford 150 mg of the title compound as bright yellow crystals.

reactant | 6-fluoro-3-[(E)-2-(3-fluorophenyl)-vinyl]-1-trityl-1H-indazol-5-ylamine | 525 mg | FC1=C(C=C2C(=NN(C2=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)\C=C\C1=CC(=CC=C1)F)N | C34H25F2N3
reactant | acetic acid | 80 μl | C(C)(=O)O | C2H4O2
product | N-{6-Fluoro-3-[(E)-2-(3-fluorophenyl)-vinyl]-1H-indazol-5-yl}-acetamide | 150 mg | FC1=C(C=C2C(=NNC2=C1)\C=C\C1=CC(=CC=C1)F)NC(C)=O | C17H13F2N3O
